US07608627B2
A mixture of 2-(methylamino)ethanol (2.0 g, 27 mmol), triethylamine (4.4 mL, 33 mmol), di-tert-butyl dicarbonate (6.1 g, 28 mmol) and 4-dimethylaminopyridine (160 mg, 1.3 mmol) in CH2Cl2 (200 mL) was stirred at ambient temperature. After 17 h, the reaction mixture was diluted with H2O (50 mL). The aqueous layer was separated and extracted with CH2Cl2 (25 mL). The combined organic layers were washed with saturated NaCl (25 mL), dried (Na2SO4) and concentrated under reduced pressure. Purification by column chromatography (silica gel, 75:25 CH2Cl2/MeOH) gave tert-butyl (2-hydroxyethyl)methylcarbamate (3.1 g, 66%) as a colorless oil: 1H NMR (300 MHz, DMSO-d6) δ1.38 (9H, s), 2.80 (3H, br s), 3.17 (2H, t, J=8.8 Hz), 3.42-3.48 (2H, m), 4.65 (1H, br s).

reactant | 2-(methylamino)ethanol | 27 mmol, 2.0 g | CNCCO | C3H9NO
reactant | triethylamine | 33 mmol, 4.4 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 28 mmol, 6.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | 1.3 mmol, 160 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | 50 mL | O | H2O
product | tert-butyl (2-hydroxyethyl)methylcarbamate | 3.1 g, 66% | OCCN(C(OC(C)(C)C)=O)C | C8H17NO3
